### PR TITLE
[Merged by Bors] - refactor: use "@[to_fun]" to generate some lemmas

### PR DESCRIPTION
**Pull request by loefflerd**
---

- [x] depends on: #32231
- [x] depends on: #33154

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
I guess that we both made very similar changes, and at the end of the day I don't care much about the order of merging them (as long as we do it on the right grounds). A no-bikeshed argument could be "my PR came first", but I don't mind strongly.

I agree about copying over the doc-strings; having that fixed before merging would indeed be nice.

**Comment by grunweg** [comment]
@JovanGerb How difficult is it to make `to_fun` copy over the doc-string of the generated documentation? This is independent of any hovering question (which I'll start a zulip thread on... soon :crossed_fingers:), and seems to be blocking the use of this attribute.

File: Mathlib/Order/Filter/Basic.lean [hunk 1]
```diff
@@ -1003,6 +1003,7 @@ theorem EventuallyEq.comp₂ {δ} {f f' : α → β} {g g' : α → γ} {l} (Hf
     (Hg : g =ᶠ[l] g') : (fun x => h (f x) (g x)) =ᶠ[l] fun x => h (f' x) (g' x) :=
   (Hf.prodMk Hg).fun_comp (uncurry h)
 
+-- TODO: can't use `to_fun` and `to_additive` at the same time?
```
Comment (loefflerd) [inline Mathlib/Order/Filter/Basic.lean]:
```suggestion
-- TODO: can't use `to_additive` and `to_fun` simultaneously?
```

File: Mathlib/MeasureTheory/Integral/CurveIntegral/Basic.lean [hunk 2]
```diff
@@ -358,6 +358,7 @@ protected theorem CurveIntegrable.add (h₁ : CurveIntegrable ω₁ γ) (h₂ :
     CurveIntegrable (ω₁ + ω₂) γ := by
   simpa [CurveIntegrable] using IntervalIntegrable.add h₁ h₂
 
+-- TODO: @[to_fun] generates wrong lemma name
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Integral/CurveIntegral/Basic.lean]:
```suggestion
-- TODO: `to_fun` generates wrong lemma name
```

File: Mathlib/Order/Filter/Basic.lean (hunk 1 above)
Comment (JovanGerb) [inline Mathlib/Order/Filter/Basic.lean]: Thanks for pointing this out! It does work to simply add `to_fun` to the list of `attr :=`, but the problem is that the `fun_` versions are then not recognized by the `to_additive` attribute. There is currently some hard-coded support for `simps` in `to_additive`, but solving this problem more generally is still a TODO.

Comment (loefflerd) [reply Mathlib/Order/Filter/Basic.lean]: It's curious actually that there are not more lemmas where this "collision" (wanting to use both `to_fun` and `to_additive`) occurs. I guess most of calculus doesn't make sense in a monoid (you need a ring / field / vector space / etc) so it's beyond the scope of `to_additive`; but it looks like the convention of having both `mul` and `fun_mul` versions of lemmas was never implemented for `Continuous`, `ContinuousOn` etc. 

It's actually quite ironic that, although the docstring of the `to_fun` tactic uses `Continuous.mul` as an example, the lemma `Continuous.mul` in the library is actually formulated in the eta-expanded form (i.e. what "ought" to be the statement of `Continuous.fun_mul`)! Of course changing the statement of such a foundational lemma is not to be undertaken lightly, but perhaps in the meantime, it might be safer to change the docstring of `to_fun` to use a different example, perhaps `Differentiable.mul`, so the docstring matches what's in the library?

Comment (JovanGerb) [reply Mathlib/Order/Filter/Basic.lean]: Feel free to change the doc-string! I don't think I did a particularly good job writing that one 😅

But that doc-string will become less relevant with my new PR that replaces the hover with the information of the generated constant.

Comment (loefflerd) [reply Mathlib/Order/Filter/Basic.lean]: Ah, I guess this must be #33154? I hadn't seen that one – thanks, that's great! Anyway I have adjusted the docstring a bit.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 3]
```diff
@@ -86,21 +86,16 @@ lemma add {f g : 𝕜 → E} (hf : MeromorphicAt f x) (hg : MeromorphicAt g x) :
...
+@[to_fun (attr := fun_prop)]
 lemma smul {f : 𝕜 → 𝕜} {g : 𝕜 → E} (hf : MeromorphicAt f x) (hg : MeromorphicAt g x) :
     MeromorphicAt (f • g) x := by
   rcases hf with ⟨m, hf⟩
   rcases hg with ⟨n, hg⟩
   refine ⟨m + n, ?_⟩
-  convert hf.fun_smul hg using 2 with z
-  rw [Pi.smul_apply', smul_eq_mul]
+  convert hf.smul hg using 2 with z
+  simp
```
Comment (JovanGerb) [inline Mathlib/Analysis/Meromorphic/Basic.lean:96]: What happened here?

**Review by JovanGerb — COMMENTED** [review]
The changes look good to me

- I agree with getting rid of `nonrec` uses
- Can you merge master to reduce the diff?
- (pre existing) I am confused by how it is decided what is `simp` and what is `fun_prop` of these lemmas. It looks kinda random.
- It seems that `to_fun` would benefit from an option to name the new lemma explicitly, just like in `to_additive`, right?
- `to_fun` should probably just be imported in `Mathlib.Tactic.Common`, since it is a very small import. But this can be done in a later PR too

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/Analysis/Meromorphic/Basic.lean:96]: Drive-by golf. Can revert it if you prefer to keep pr minimal.

Comment (JovanGerb) [reply Mathlib/Analysis/Meromorphic/Basic.lean:96]: Sure, if you think the new proof is better

**Review by j-loreaux — COMMENTED** [review]
Thanks for all the review everyone! This looks great!

bors merge
